US06426345B1
A mixture of 2-quinolinecarboxylic acid (520 mg) and 1,1′-carbonyldiimidazole (243 mg) in tetrahydrofuran (5 ml) was stirred at room temperature for 1.5 hours. A solution of 4-(3-aminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido[2,3-b]pyrazine (493 mg) in 1,4-dioxane (5 ml) was added to the mixture and stirring was continued for 5 days. The reaction mixture was poured into a mixture of ethyl acetate and an aqueous sodium bicarbonate solution. The organic phase was washed with brine, dried over magnesium sulfate, concentrated, and subjected to silica gel column chromatography (hexane-ethyl acetate, 1:1) to afford 2-benzyl-3-oxo-4-[3-(quinolin-2-yl) carbonylaminophenyl]-3,4-dihydropyrido[2,3-b]pyrazine (87 mg) as a solid.

reactant | 2-quinolinecarboxylic acid | 520 mg | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 1,1′-carbonyldiimidazole | 243 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-(3-aminophenyl)-3-oxo-2-benzyl-3,4-dihydropyrido[2,3-b]pyrazine | 493 mg | NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2 | C20H16N4O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-benzyl-3-oxo-4-[3-(quinolin-2-yl) carbonylaminophenyl]-3,4-dihydropyrido[2,3-b]pyrazine | 87 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)C1=NC3=CC=CC=C3C=C1)N=CC=C2 | C30H21N5O2
